datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31])[H:11])([H:9])[H:10],-6.52704
[C:0](=[C:1]1[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:13])[C:3]([H:14])([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]21)([H:10])[H:11].[H:12],362.267456
[H:5].[S:0]([S:1][S:2][H:4])[H:3]>>[S:0]([H:3])[H:5].[S:1][S:2][H:4],2.092
[C:0]([C:1]1([H:9])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8]>>[C:0]([H:6])([H:7])[H:8].[C:1]1([H:9])=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14],163.017008
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:20])[H:10])([H:8])[H:9],5.98312
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[C:14]([H:15])([H:16])[H:17]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[C:14]([H:15])([H:16])[H:17],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[C:28]([H:29])([H:30])[H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[C:28]([H:29])([H:30])[H:31],0.0
[C:0]([C:1](=[O:2])[O:3][O:4][C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1](=[O:2])[O:3]1.[O:4][C:5]([H:8])([H:9])[H:10],101.839
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:11][C:10]([H:12])([H:13])[H:14],13.8072
[C:0]([C:1]=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1=[C:2]([H:12])[C:3]12[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17])([H:9])([H:10])[H:11],116.33612
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27],60.668
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:15][O:16][H:17],44.05752
[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[S:0][S:1][H:3],-12.552
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:9])[H:8])([H:6])[H:7],4.6024
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:15])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])[H:16])[H:14])([H:12])[H:13],11.7152
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:26])([H:27])[H:28])[C:11]#[C:12][H:29])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([C:9]([C:10]([H:26])([H:27])[H:28])[C:11]#[C:12][H:29])[H:25])[H:13],51.8816
[C:0]([H:1])([H:2])[H:3].[N:4]([H:5])[H:6]>>[C:0]([H:1])([H:2])([H:3])[H:5].[N:4][H:6],60.9734
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],51.8816
